US05273975
A mixture of 4-methoxy-3-methyl-1,2-benzenediamine (2.8 g, 18.4 mmol) and formic acid (30 mL) was heated at 60° C. for 30 minutes. The formic acid was removed under pressure and the product was partitioned between chloroform and water containing sufficient sodium hydroxide to basify the solution. After evaporation of the solvent the crude product was chromatographed (methanol:chloroform) to give 2.55 g (84%) of 5-methoxy-4-methyl-1H-benzimidazole.

reactant | 4-methoxy-3-methyl-1,2-benzenediamine | 18.4 mmol, 2.8 g | COC=1C(=C(C(=CC1)N)N)C | C8H12N2O
reactant | formic acid | 30 mL | C(=O)O | CH2O2
product | 5-methoxy-4-methyl-1H-benzimidazole | 2.55 g, 84% | COC1=C(C2=C(NC=N2)C=C1)C | C9H10N2O
